US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-(2-ethoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (2-ethoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (177 mg, 25%) was prepared as a pale, yellow solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.4 (s, 1H), 8.28-8.19 (m, 2H), 7.73 (s, 1H), 7.47 (d, J=15.3 Hz, 1H), 7.21 (dd, J=14.9, 5.4 Hz, 1H), 7.05-6.94 (m, 2H), 6.64 (dd, J=7.2, 7.2 Hz, 1H), 4.78-4.63 (m, 2H), 4.03-3.93 (m, 2H), 3.79 (s, 3H), 3.55-3.33 (m, 7H), 3.09-2.85 (m, 7H), 2.74 (s, 3H), 1.31-1.25 (m, 3H); MS (ESI) m/e 454 (M+H)+.

reactant | (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCN(CC1)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (2-ethoxy-3-methoxy-benzyl)methylamine | C(C)OC1=C(CCN)C=CC=C1OC | C11H17NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-(2-ethoxy-3-methoxy-benzyl)-N-methyl-acrylamide hydrochloride | 177 mg, 25% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(C)CC1=C(C(=CC=C1)OC)OCC)CN1CCN(CC1)C | InChI=1S/C25H35N5O3.ClH/c1-5-33-24-20(7-6-8-22(24)32-4)17-29(3)23(31)10-9-19-15-21(25(26)27-16-19)18-30-13-11-28(2)12-14-30;/h6-10,15-16H,5,11-14,17-18H2,1-4H3,(H2,26,27);1H/b10-9+;
